2195-09-20 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2195-9-19**] 11:30 AM
 FEVER - 101.6
F - [**2195-9-19**] 10:00 AM
   [**2195-9-19**]
   - spoke to family when they visited
   - got a 500 LR bolus x 2 for decreased UOP with some response
   - remained tachy, stable BPs
   Allergies:
   Penicillins
   Unknown;
   Evista (Oral) (Raloxifene Hcl)
   Unknown;
   Tetanus
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Ibuprofen
   Unknown;
   Fluoxetine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-9-20**] 12:30 AM
   Vancomycin - [**2195-9-20**] 06:07 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-9-20**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.4
C (97.5
   HR: 111 (105 - 123) bpm
   BP: 133/50(70) {92/33(49) - 133/51(80)} mmHg
   RR: 23 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,302 mL
                                                                    668 mL
   PO:
                                                                    640 mL
             TF:
   IVF:
                                                                    662 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                    915 mL
                                                                     89 mL
   Urine:
                                                                    915 mL
                                                                     89 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    387 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General: Elderly woman, lying flat in bed with cervical collar, in
   NAD.
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: Cervical collar in place
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, rhonchi
   CV: Tachycardic.  no murmurs, rubs, gallops appreciated
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
   edemaNeurologic: Responds to: Not assessed, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   361 K/uL
   8.7 g/dL
   259 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   28 mg/dL
   108 mEq/L
   140 mEq/L
   27.3 %
   32.2 K/uL
        [image002.jpg]
                             [**2195-9-19**]  07:43 AM
                             [**2195-9-20**]  03:09 AM
   WBC
   37.1
   32.2
   Hct
   29.2
   27.3
   Plt
   344
   361
   Cr
   0.9
   1.1
   TropT
   0.01
   Glucose
   94
   259
   Other labs: PT / PTT / INR:14.3/78.9/1.2, CK / CKMB /
   Troponin-T:15//0.01, Differential-Neuts:93.9 %, Lymph:3.8 %, Mono:2.1
   %, Eos:0.1 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   T and L Spine
   Non-displaced fractures of the right transverse processes of T4 through
   T7,
   which appear acute. Old T5 compression fracture with high-density
   material
   consistent with prior vertebroplasty. Compression deformities of T4 and
   T6
   are likely related to associated degenerative change. Old spinous
   process
   fractures at T4 and T5 demonstrate sclerosis and appear chronic.
   Bibasilar
   atelectasis versus aspiration, incompletely imaged.
   Assessment and Plan
   The patient is an 87 yo woman with h/o osteoporosis, DM2, dementia,
   depression, and anxiety who presents s/p fall with evidence of C2
   fracture and bilateral pulmonary emboli.
   # Bilateral PE:  Small bilateral PEs and right superficial femoral vein
   thrombosis seen on LENIs.
   - heparin gtt with transition to warfarin/lovenox once clearerd by
   surgery
   - would not place IVC filter at this time
   - monitor
   # C2 fx: Also notable are T4-T7 transverse process fx.  She is not a
   surgical candidate, and surgery recommended a cervical collar for 6
   weeks.
   - Neuro checks q4h to evaluate for cord compression
   - F/U orhto spine re TLSO brace
   # Leukocytosis:  Improving with empiric CDiff treatment.
   - Flagyl 500 mg PO TID
   - vancomycin po
   # Oliguria: Likely volume depleted. Renal function otherwise intact.
   - Continue gentle IVF boluses.
   # DM2:  Her SSI does not start until FSBG of 300, as the patient
   reportedly has very brittle DM2.
    - Continue home SSI and Lantus
   # CAD s/p MI: Continue ASA and Zocor.
   - consider restarting Enalapril, Metoprolol, and Lasix today
   # Depression:  Continue Wellbutrin and Citalopram
   # FEN: replete electrolytes prn, regular diet with nectar thick liquids
   # Prophylaxis: Systemic heparin gtt
   # Access: PIV
   # Code:  DNR/DNI (Confirmed in ED with patient's daughter)
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition: pending speech and swallow
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-9-19**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2195-09-21 07:20:00 Physician Resident Progress Note
Chief Complaint: C2 Fracture, tachycardia
   24 Hour Events:
   - FSG 450s, Insulin
   - [**Name8 (MD) 7752**], RN concern; did not call out;
   - CDiff positive
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsPenicillins
   Unknown;
   Evista (Oral) (Raloxifene Hcl)
   Unknown;
   Tetanus
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Ibuprofen
   Unknown;
   Fluoxetine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-9-21**] 12:15 AM
   Vancomycin - [**2195-9-21**] 06:04 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-9-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 102 (98 - 122) bpm
   BP: 109/43(61) {95/34(50) - 146/4,640(74)} mmHg
   RR: 21 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,035 mL
                                                                    873 mL
   PO:
                                                                    900 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,135 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                    424 mL
                                                                    169 mL
   Urine:
                                                                    424 mL
                                                                    169 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,611 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, demented and minimally responsive
   Labs / Radiology
   356 K/uL
   8.5 g/dL
   145 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   138 mEq/L
   25.2 %
   33.0 K/uL
        [image002.jpg]
                             [**2195-9-19**]  07:43 AM
                             [**2195-9-20**]  03:09 AM
                             [**2195-9-21**]  02:57 AM
   WBC
   37.1
   32.2
   33.0
   Hct
   29.2
   27.3
   25.2
   Plt
   344
   361
   356
   Cr
   0.9
   1.1
   1.1
   TropT
   0.01
   Glucose
   94
   259
   145
   Other labs: PT / PTT / INR:14.2/65.7/1.2, CK / CKMB /
   Troponin-T:15//0.01, Differential-Neuts:93.9 %, Lymph:3.8 %, Mono:2.1
   %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: The patient is an 87 yo woman with h/o
   osteoporosis, DM2, dementia, depression, and anxiety who presents s/p
   fall with evidence of C2 fracture and bilateral pulmonary emboli.
   .
   # PE:  CTA of the patient's neck showed evidence of right and left
   pulmonary artery emboli.  Per radiology, the PE straddles the
   bifurcation but it is not occlusive.  She is currently hemodynamically
   stable and is satting 99% on 2L NC.  Given the patient's recent C2
   fracture, there is a much larger risk in starting anticoagulation in
   this patient.  Per conversation with the patient's family, they are
   interested in proceeding with anticoagulation.
    - Start heparin gtt
    - Monitor respiratory status and PTT q6h
    - Investigate possible malignant causes of coagulopathy (up-to-date
   colonoscopy, mammogram?)
    - Hold Lasix, Enalapril, and Metoprolol in the setting of acute PE
   .
   # C2 Fracture:  The patient has a transverse comminuted fracture of
   C2.  She is not a surgical candidate, and surgery recommended a
   cervical collar for 6 weeks.
    - F/U surgery recs
    - Continue cervical collar
    - Neuro checks q2h to evaluate for cord compression
   .
   # Leukocytosis:  The patient has a leukocytosis to 30K on this
   admission.  She recently had a CDiff infection, for which she underwent
   Flagyl therapy for 7 days.  DDx includes sepsis v. CDiff v. leukemia.
    - Start Flagyl 500 mg PO TID
    - Continue to monitor WBC daily
   .
   # DM2: The patient has a history of DM2, for which she takes Lantus
   daily and Novalog insulin SS.  Her SSI does not start until FSBG of
   300, as the patient reportedly has very brittle DM2.
    - Continue home SSI and Lantus
    - FSBG qid
   .
   # CAD s/p MI: Continue ASA and Zocor.  Hold Enalapril, Metoprolol, and
   Lasix today
   .
   # Depression:  Continue Wellbutrin and Citalopram
   ICU Care
   Nutrition: Regular, pureed food with nectar thick liquids
   Glycemic Control: Comments: HISS
   Lines:
   20 Gauge - [**2195-9-19**] 05:07 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2195-09-21 10:15:00 Physician Attending Progress Note
Chief Complaint: PE, C2 fx
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87F with C2 fx after mechanical fall non-operative, incidental finding
   of large PE now on A/C, found to be c.diff positive, now improved:
   24 Hour Events:
 EKG - At [**2195-9-20**] 06:40 PM
 CALLED OUT
   -not called out because of tachycardia and hyperglycemia
   -started c.diff treatment
   Allergies:
   Penicillins
   Unknown;
   Evista (Oral) (Raloxifene Hcl)
   Unknown;
   Tetanus
   Unknown;
   Fosamax (Oral) (Alendronate Sodium)
   Unknown;
   Actonel (Oral) (Risedronate Sodium)
   Unknown;
   Ibuprofen
   Unknown;
   Fluoxetine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-9-21**] 12:15 AM
   Vancomycin - [**2195-9-21**] 06:04 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   heparin gtt, montelycast, advair, simva, donepezil, asa, lorazepam,
   buproprion, riss / insulin, flagyl po, vanco po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Flowsheet Data as of  [**2195-9-21**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.4
   HR: 101 (98 - 122) bpm
   BP: 102/41(56) {95/23(37) - 146/4,640(74)} mmHg
   RR: 22 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,035 mL
                                                                    920 mL
   PO:
                                                                    900 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,135 mL
                                                                    680 mL
   Blood products:
   Total out:
                                                                    424 mL
                                                                    214 mL
   Urine:
                                                                    424 mL
                                                                    214 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,611 mL
                                                                    706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: througout),
   no wheezing
   Abdominal: Bowel sounds present, No(t) Distended, Tender: to mild
   palpation
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   356 K/uL
   145 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   27 mg/dL
   108 mEq/L
   138 mEq/L
   25.2 %
   33.0 K/uL
        [image002.jpg]
                             [**2195-9-19**]  07:43 AM
                             [**2195-9-20**]  03:09 AM
                             [**2195-9-21**]  02:57 AM
   WBC
   37.1
   32.2
   33.0
   Hct
   29.2
   27.3
   25.2
   Plt
   344
   361
   356
   Cr
   0.9
   1.1
   1.1
   TropT
   0.01
   Glucose
   94
   259
   145
   Other labs: PT / PTT / INR:14.2/65.7/1.2, CK / CKMB /
   Troponin-T:15//0.01, Differential-Neuts:93.9 %, Lymph:3.8 %, Mono:2.1
   %, Eos:0.1 %, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: cxr: edema resolved
   Assessment and Plan
 OLIGURIA/ANURIA
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PULMONARY EMBOLISM (PE), ACUTE
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 FRACTURE, OTHER
   87F with C2 fx after mechanical fall non-operative, incidental finding
   of large PE now on A/C, found to be c.diff positive, now improved.
   Abdomen remains tender but also soft, and wbc is decreasing. Will plan
   to restart some of her home medications:
   C2 fracture
   -cont neuro checks
   -cont collar per surgery; no surgical intervention
   c.diff: unclear risk factor
   -cont flagyl and vanco
   PE and DVT:
   -cont heparin, knowing risk of bleeding into spine
   -no indication for filter unless pt develops contraindication for
   anticoagulation
   -will need extensive discussion with family, PCP re fall risk
   Anemia: could be slow GIB from c.diff
   -check guaiac
   -check PM hct
   CAD
   -cont asa
   DM
   -riss
   ICU Care
   Nutrition: cardiac
   Glycemic Control:  riss
   Lines:
   20 Gauge - [**2195-9-19**] 03:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments: will
   speak to family today
   Code status: DNR / DNI
   Disposition : Transfer to floor
   Total time spent: 35 minutes